### PR TITLE
Tree zippers attempt 2

### PR DESCRIPTION
**Pull request by alexarice**
Merged leaf based and node based binary trees into one then added zippers

attempt number 2 at #1123 

cc @gallais 

~~wip as I would like to add functions to add to a zipper (like _++l_ and _++r_ in the list zipper file)~~

### CODE REVIEW

File: src/Data/Tree/Binary.agda [hunk 1]
```diff
@@ -10,56 +10,70 @@ module Data.Tree.Binary where
...
-map f (node l m r) = node (map f l) (f m) (map f r)
+map : (A → C) → (B → D) → Tree A B → Tree C D
+map f g (leaf x)     = leaf (g x)
+map f g (node l m r) = node (map f g l) (f m) (map f g r)
 
-size : Tree A → ℕ
-size leaf         = 0
+size : Tree A B → ℕ
+size (leaf x)     = 0
 size (node l m r) = size l + suc (size r)
```
Comment (gallais) [inline src/Data/Tree/Binary.agda]: I think this should be renamed to `nodes` for consistency with the other notions
of size one being called `leaves`. Or rather, it may be a good idea to call it
something like `#nodes` while `nodes` would be a function `Tree A B -> List A`!

File: src/Data/Tree/Binary/Zipper/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,106 @@
...
+      1 + BT.size foc + (BT.size l + sum (List.map (suc ∘ BT.size ∘ getTree) ctx)) ≡˘⟨ +-assoc (1 + BT.size foc) (BT.size l) (sum (List.map (suc ∘ BT.size ∘ getTree) ctx)) ⟩
+      1 + BT.size foc + BT.size l + sum (List.map (suc ∘ BT.size ∘ getTree) ctx) ≡⟨ cong (λ y → y + sum (List.map (suc ∘ BT.size ∘ getTree) ctx)) (+-comm (1 + BT.size foc) (BT.size l)) ⟩
+      size (mkZipper ctx (node l m foc)) ≡⟨ helper ctx (node l m foc) ⟩
+      BT.size (toTree (mkZipper (leftBranch m l ∷ ctx) foc)) ∎
+    helper (rightBranch m r ∷ ctx) foc = begin
+      BT.size foc + (1 + (BT.size r + sum (List.map (suc ∘ BT.size ∘ getTree) ctx))) ≡˘⟨ cong (λ y → BT.size foc + y) (+-assoc 1 (BT.size r) (sum (List.map (λ x → suc (BT.size (getTree x))) ctx))) ⟩
+      BT.size foc + (1 + BT.size r + sum (List.map (suc ∘ BT.size ∘ getTree) ctx)) ≡˘⟨ +-assoc (BT.size foc) (suc (BT.size r)) (sum (List.map (suc ∘ BT.size ∘ getTree) ctx)) ⟩
+      size (mkZipper ctx (node foc m r)) ≡⟨ helper ctx (node foc m r) ⟩
+      BT.size (toTreeHelper ctx (node foc m r)) ∎
```
Comment (gallais) [inline src/Data/Tree/Binary/Zipper/Properties.agda]: The subexpressions `sum (List.map (suc ∘ BT.size ∘ getTree) ctx)` appears a lot,
it is worth naming it in a `let`.

**Comment by alexarice** [comment]
Have changed size to #nodes, leaves to #leaves and fixed the other problems

**Comment by alexarice** [comment]
These changes have broken Text.Pretty.Core . I can fix it though I don't know if it is worth setting up aliases for trees with no node labels or no leaf labels. I also don't know the best way to do this, should both versions be put in different files where the Types, constructors and functions are aliased?

File: src/Data/Tree/Binary/Zipper.agda [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+
+right : Zipper A B → Maybe (Zipper A B)
+right (mkZipper ctx (leaf x)) = nothing
+right (mkZipper ctx (node l m r)) = just $ mkZipper (leftBranch m l ∷ ctx) r
+
+-- To and from trees
+------------------------------------------------------------------------
+
+toTreeHelper : List (Crumb A B) → Tree A B → Tree A B
+toTreeHelper [] t = t
```
Comment (gallais) [inline src/Data/Tree/Binary/Zipper.agda]: This is usually called `plug` as we plug the hole in the one-hole context
with the term that is supposed to sit in it.

File: src/Data/Tree/Binary/Zipper.agda [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+------------------------------------------------------------------------
+
+infixr 5 _⟪_⟫ˡ_
+infixl 5 _⟪_⟫ʳ_
+
+_⟪_⟫ˡ_ : Tree A B → A → Zipper A B → Zipper A B
+l ⟪ m ⟫ˡ mkZipper ctx foc = mkZipper (ctx ++ [ (leftBranch m l) ]) foc
+
+_⟪_⟫ʳ_ : Zipper A B → A → Tree A B → Zipper A B
+mkZipper ctx foc ⟪ m ⟫ʳ r = mkZipper (ctx ++ [ (rightBranch m r) ]) foc
```
Comment (gallais) [inline src/Data/Tree/Binary/Zipper.agda]: These operations are costly. They should be generalised to a full
`Zipper A B -> List (Crumb A B) -> Zipper A B` so that we can pour
a whole one-hole context on top of the current one without iterating
over `_⟪_⟫ˡ_` (it would be quadratic instead of linear). We can then
have them as a special case.

**Comment by gallais** [comment]
> I don't know if it is worth setting up aliases for trees with no node labels or no leaf labels

I am not sure it is.

**Comment by gallais** [comment]
Btw, if you don't force-push it is easier to see the latest changes (and we will
squash the whole PR at the end anyway so the git history will be kept clean even
if there are multiple commits in the PR).

**Comment by alexarice** [comment]
> 
> 
> Btw, if you don't force-push it is easier to see the latest changes (and we will
> squash the whole PR at the end anyway so the git history will be kept clean even
> if there are multiple commits in the PR).

sorry, am used to trying to keep commit histories clean

**Comment by alexarice** [comment]
Everything should be fixed now I think

File: src/Text/Pretty/Core.agda [hunk 5]
```diff
@@ -154,14 +156,14 @@ private
     size-indent nothing    str = refl
     size-indent (just pad) str = length-++ pad str
 
-    indents : Maybe String → Tree String → Tree String
-    indents = maybe′ (Tree.map ∘ _++_) id
+    indents : Maybe String → Tree String ⊤ → Tree String ⊤
+    indents = maybe′ (flip Tree.map id ∘ _++_) id
```
[the remark this answers is not in the document]
Comment (alexarice) [reply src/Text/Pretty/Core.agda]: Should the original map still exist?
If so should it be called bi-map or something similar to show it is a bifunctor?

[the remark this answers is not in the document]
Comment (alexarice) [reply src/Text/Pretty/Core.agda]: Have copied the names in `Data.Sum.Base`

**Comment by alexarice** [comment]
Have addressed all comments

**Comment by alexarice** [comment]
Do I need to squash the commits or will that be done automatically?

**Comment by gallais** [comment]
That will be done automatically. We will also need an entry in the CHANGELOG but
I need to find the time to get the new system (#1039) merged in first.

File: src/Data/Tree/Binary.agda [hunk 6]
```diff
@@ -10,56 +10,76 @@ module Data.Tree.Binary where
...
-map f leaf         = leaf
-map f (node l m r) = node (map f l) (f m) (map f r)
+map : (A → C) → (B → D) → Tree A B → Tree C D
+map f g (leaf x)     = leaf (g x)
+map f g (node l m r) = node (map f g l) (f m) (map f g r)
 
-size : Tree A → ℕ
-size leaf         = 0
-size (node l m r) = size l + suc (size r)
+map₁ : (A → C) → Tree A B → Tree C B
```
Comment (MatthewDaggitt) [inline src/Data/Tree/Binary.agda]: I'd be tempted to call this `mapₙ` and `mapₗ` rather than `1` and `2`?

File: src/Data/Tree/Binary.agda [hunk 7]
```diff
@@ -10,56 +10,76 @@ module Data.Tree.Binary where
...
+    a b c d : Level
     A : Set a
     B : Set b
+    C : Set c
+    D : Set d
 
-data Tree (A : Set a) : Set a where
-  leaf : Tree A
-  node : Tree A → A → Tree A → Tree A
+data Tree (A : Set a) (B : Set b) : Set (a ⊔ b) where
```
Comment (MatthewDaggitt) [inline src/Data/Tree/Binary.agda]: We should either add a comment explaining which type is which, or we should name types `A` and `B` something a little more meaningful?

File: src/Data/Tree/Binary/Relation/Unary/All/Properties.agda [hunk 8]
```diff
@@ -12,15 +12,24 @@ open import Level
...
+    a b c d p q : Level
     A : Set a
     B : Set b
+    C : Set c
+    D : Set d
+    P : C → Set p
+    Q : D → Set q
 
-module _ {P : B → Set p} where
+map⁺ : (f : A → C) → (g : B → D) → ∀[ All (f ⊢ P) (g ⊢ Q) ⇒ Tree.map f g ⊢ All P Q ]
```
Comment (MatthewDaggitt) [inline src/Data/Tree/Binary/Relation/Unary/All/Properties.agda]: Hmm, this is another one of those cases where I think we might be using too much notation. I'm really struggling to interpret the exact type of this. Perhaps expanding at least some of the notation out might make it more usable?

File: src/Data/Tree/Binary/Zipper.agda [hunk 9]
```diff
@@ -0,0 +1,108 @@
...
+record Zipper (A : Set a) (B : Set b) : Set (a ⊔ b) where
+  constructor mkZipper
+  field
+    context : List (Crumb A B)
+    focus : Tree A B
+
+open Zipper public
+
+-- Fundamental operations of a Zipper: Moving around
+------------------------------------------------------------------------
```
Comment (MatthewDaggitt) [inline src/Data/Tree/Binary/Zipper.agda]: We usually put the long `-----------` above the section title, rather than below.

File: src/Data/Tree/Binary/Zipper/Properties.agda [hunk 10]
```diff
@@ -0,0 +1,145 @@
...
+
+-- Tree-like operations indeed correspond to their counterparts
+------------------------------------------------------------------------
+
+toTree-#nodes-commute : ∀ (zp : Zipper A B) → #nodes zp ≡ BT.#nodes (toTree zp)
+toTree-#nodes-commute (mkZipper c v) = helper c v
+  where
+    helper : (cs : List (Crumb A B))
+           → (t : Tree A B)
+           → #nodes (mkZipper cs t) ≡ BT.#nodes (toTree (mkZipper cs t))
```
Comment (MatthewDaggitt) [inline src/Data/Tree/Binary/Zipper/Properties.agda]: The [style guide](https://github.com/agda/agda-stdlib/blob/master/notes/style-guide.md) suggests that function arrows go at the end of lines rather than the beginning.

File: src/Data/Tree/Binary.agda (hunk 6 above)
Comment (alexarice) [reply src/Data/Tree/Binary.agda]: sounds good, I'll fix this

File: src/Data/Tree/Binary.agda (hunk 7 above)
Comment (alexarice) [reply src/Data/Tree/Binary.agda]: I'll do both

File: src/Data/Tree/Binary/Relation/Unary/All/Properties.agda (hunk 8 above)
Comment (alexarice) [reply src/Data/Tree/Binary/Relation/Unary/All/Properties.agda]: I agree though I don't think it is more confusing than before

File: src/Data/Tree/Binary/Zipper.agda (hunk 9 above)
Comment (alexarice) [reply src/Data/Tree/Binary/Zipper.agda]: I think I copied this from the list zipper file, though I am happy to change it

Comment (MatthewDaggitt) [reply src/Data/Tree/Binary/Zipper.agda]: Ah okay, that obviously slipped past me last time! I'd never condone something so obviously wrong as putting the dashes below rather than above :smile: If you wouldn't mind changing it that'd be great, thanks.

File: src/Data/Tree/Binary/Relation/Unary/All/Properties.agda (hunk 8 above)
Comment (alexarice) [reply src/Data/Tree/Binary/Relation/Unary/All/Properties.agda]: I've changed this though I don't know if it is any better

Comment (MatthewDaggitt) [reply src/Data/Tree/Binary/Relation/Unary/All/Properties.agda]: Looks ever so slightly better to me...

**Comment by MatthewDaggitt** [comment]
Everything looks good now. Any chance you could add some entries in the CHANGELOG describing the changes? See the [previous one](https://github.com/agda/agda-stdlib/blob/master/CHANGELOG/v1.3.md) for an idea of the style we're going for.

After that I'll merge it in 👍

**Comment by alexarice** [comment]
> Everything looks good now. Any chance you could add some entries in the CHANGELOG describing the changes? See the [previous one](https://github.com/agda/agda-stdlib/blob/master/CHANGELOG/v1.3.md) for an idea of the style we're going for.
> 
> After that I'll merge it in +1

I don't need to wait for the changelog pr?

**Comment by MatthewDaggitt** [comment]
> I don't need to wait for the changelog pr?

No. We've decided to merge in outstanding PRs and then we'll refactor the existing entries when we merge the new changelog PR in.

**Comment by alexarice** [comment]
Have done by best attempt, Let me know if more detail is needed.

**Comment by MatthewDaggitt** [comment]
> Have done by best attempt, Let me know if more detail is needed.

Looks great! Merging in. Thanks for the PR!
